US05955495
A solution of 42.95 g (0.36 mol) of propargyl bromide in 30 ml of dimethylformamide was added dropwise to a suspension of 50 g (0.26 mol) of 2-bromo-5-fluoro-phenol and 55 g of potassium carbonate in 300 ml of dimethylformamide and the mixture was subsequently stirred at room temperature for two hours. The mixture was poured on to 1500 ml of ice-water and extracted three times with 600 ml of dichloromethane each time. After drying over sodium sulfate concentration was carried out in a vacuum. The crude product obtained was purified by column chromatography on silica gel (dichloromethane/hexane 1:1). 58 g (97%) of 1-bromo-4-fluoro-2-prop-2-ynyloxy-benzene were obtained as a pale yellow oil.

reactant | propargyl bromide | 0.36 mol, 42.95 g | C(C#C)Br | C3H3Br
reactant | 2-bromo-5-fluoro-phenol | 0.26 mol, 50 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 55 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 1-bromo-4-fluoro-2-prop-2-ynyloxy-benzene | 58 g, 97% | BrC1=C(C=C(C=C1)F)OCC#C | C9H6BrFO
